US04329347
5-(4-Phenylmercapto-butoxy)-oxindole
Prepared analogous to Example 140 from 5-hydroxy-oxindole (J. Chem. Soc. 1961, 2723) and 4-phenylmercapto- butyl bromide.

reactant | 5-hydroxy-oxindole | OC=1C=C2CC(NC2=CC1)=O | C8H7NO2
reactant | 4-phenylmercapto- butyl bromide | C1(=CC=CC=C1)SCCCCBr | C10H13BrS
product | 5-(4-Phenylmercapto-butoxy)-oxindole | C1(=CC=CC=C1)SCCCCOC=1C=C2CC(NC2=CC1)=O | C18H19NO2S
